US04203909
When 1-phthalimido-3-[(5-dimethylaminomethyl-2-furyl)methylthio]propane is treated with hydrazine and the resultant substituted propylamine is reacted with dimethyl cyanodithioimidocarbonate there is produced N-cyano-N'-{3-[(5-dimethylaminomethyl-2-furyl)methylthio]propyl}-S-methylisothiourea, and when this is reacted with propargylamine according to the general procedure of Example 3 the title compound is produced.

reactant | 1-phthalimido-3-[(5-dimethylaminomethyl-2-furyl)methylthio]propane | C1(C=2C(C(N1CCCSCC=1OC(=CC1)CN(C)C)=O)=CC=CC2)=O | C19H22N2O3S
reactant | hydrazine | NN | H4N2
reactant | dimethyl cyanodithioimidocarbonate | C(#N)N=C(SC)SC | C4H6N2S2
product | N-cyano-N'-{3-[(5-dimethylaminomethyl-2-furyl)methylthio]propyl}-S-methylisothiourea | C(#N)NC(SC)=NCCCSCC=1OC(=CC1)CN(C)C | C14H22N4OS2
